US04977149
(±)-trans-2-Bromo-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline dihydrobromide
Phosphorus tribromide (30.7 mL, 87.5 g, 324 mMol) was added dropwise over 22 hours to a solution of (±)-trans-2-oxo-6-propyl-1,2,5,5a,6,7,8,9,9a,10-decahydropyrido[2,3-g]quinoline (1.50 g, 6.06 mMol) in dimethylformamide (100 mL) at 100° C. The reaction was quenched by the dropwise addition of water (50 mL). This mixture was poured over ice and made basic by addition of NH4OH and extracted with methylene chloride. The extract was dried (Na2SO4) and concentrated to give a brown oil. Purification by flash chromatography (7% methanol in methylene chloride, 0.5% NH4OH) gave the desired product as an orange oil (Rf =0.54, 1.22 g, 65% yield).

reactant | Phosphorus tribromide | 324 mMol, 30.7 mL, 87.5 g | P(Br)(Br)Br | Br3P
reactant | (±)-trans-2-oxo-6-propyl-1,2,5,5a,6,7,8,9,9a,10-decahydropyrido[2,3-g]quinoline | 6.06 mMol, 1.50 g | O=C1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C15H22N2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | (±)-trans-2-Bromo-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline dihydrobromide | 1.22 g, 65% yield | Br.Br.BrC=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C15H21BrN2.2BrH/c1-2-7-18-8-3-4-12-9-13-11(10-14(12)18)5-6-15(16)17-13;;/h5-6,12,14H,2-4,7-10H2,1H3;2*1H/t12-,14-;;/m0../s1
